US04462992
Synthesis of 1-α-D-Arabinofuranosyl-2-nitroimidazole
1-(2',3',5'-tri-O-benzoyl-α-D-arabinofuranosyl)-2-nitroimidazole (557 mg, 1 mmol) was added to 5 ml of 0.05 M methanolic sodium methoxide. The mixture was stirred at 0° C. for 2.5 hours. The precipitate of 1-(mono-benzoyl-α-D-arabino furanosyl)-2-nitroimidazole was filtered off and the filtered solution was purified by preparative TLC using chloroform:methanol (5:1) to give 115 mg (46.9%) of the title product as pale yellow needles, mp 160° C.

reactant | 1-(2',3',5'-tri-O-benzoyl-α-D-arabinofuranosyl)-2-nitroimidazole | 1 mmol, 557 mg | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C(=NC=C1)[N+](=O)[O-] | C29H23N3O9
reactant | sodium methoxide | 0.05 M, 5 ml | C[O-].[Na+]
product | 1-α-D-Arabinofuranosyl-2-nitroimidazole | 115 mg, 46.9% | [C@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C(=NC=C1)[N+](=O)[O-] | C8H11N3O6
